US04419439
Synthesis of 4-Cyclohexyloxy-1-naphthol [Compound (I-16)]
160 g of naphthohydroquinone and 416 g of cyclohexanol were placed in a 1 l three-necked flask, and 80 ml of concentrated sulfuric acid was dropwisely added thereto for 10 minutes under nitrogen gas stream while stirring. Thereafter, the reaction mixture was heated at 60° C. for 40 minutes and then cooled to room temperature. The reaction mixture was extracted with 500 ml of ethyl acetate. The ethyl acetate layer was washed with water until the washing reached neutral and, then, dried with MgSO4 overnight. The dried ethyl acetate solution was concentrated under reduced pressure. The residue was distilled under reduced pressure to obtain 140 g of oily substance. The oily substance was dissolved in ethyl acetate and treated with about 20 g of active carbon followed by concentration under reduced pressure. The residue was recrystallized from benzene two times to obtain 60 g of white crystals having a melting point of 120° to 121° C.

reactant | naphthohydroquinone | 160 g | C1=CC=C2C(=C1)C(=CC=C2O)O | C10H8O2
reactant | cyclohexanol | 416 g | C1(CCCCC1)O | C6H12O
reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyclohexyloxy-1-naphthol | 60 g | C1(CCCCC1)OC1=CC=C(C2=CC=CC=C12)O | C16H18O2
